US07087599B2
A solution of 5-methoxy-1H-indene (0.895 g, 6.12 mmol) in anhydrous Et2O (7.5 mL) was treated with 1.4M MeLi in Et2O (4.7 mL, 6.58 mmol) added dropwise over 10 minutes. The resulting hazy solution was stirred at room temperature an additional 15 minutes, then cooled in an ice bath and treated with iodopropane (1.00 mL, 10.3 mmol). The mixture was stirred at ice bath temperature with gradual warming to room temperature. After stirring at room temperature overnight, the mixture was treated with saturated aq. NH4Cl (10 mL) and Et2O (15 mL) and shaken. The organic phase was washed with brine, dried over MgSO4, filtered, and evaporated under vacuum to afford a mixture (1.248 g) of 5-methoxy-1-propyl-1H-indene and 6-methoxy-1-propyl-1H-indene as an oil.

reactant | 5-methoxy-1H-indene | 6.12 mmol, 0.895 g | COC=1C=C2C=CCC2=CC1 | C10H10O
reactant | MeLi | 1.4M | [Li]C
reactant | iodopropane | 10.3 mmol, 1.00 mL | ICCC | C3H7I
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | Et2O | 7.5 mL | CCOCC | C4H10O
solvent | Et2O | 15 mL | CCOCC | C4H10O
solvent | Et2O | 6.58 mmol, 4.7 mL | CCOCC | C4H10O
product | 5-methoxy-1-propyl-1H-indene | 1.248 g | COC=1C=C2C=CC(C2=CC1)CCC | C13H16O
